US08686005B2
3-Methoxy-2-methyl-phenol was prepared according to published procedure: J. Org. Chem. 55, 5, 1990, 1469. To a solution of 2.0 g (50 mmol) NaOH and 2-methylresorcinol (6.2 g, 50 mmol) in water (50 mL), dimethylsulfate (4.8 mL, 50 mmol) was added at 95° C. over 30 min, then reaction was stirred for 2 h at 95° C. After cooling to RT, the reaction mixture was poured into aqueous NaOH (8.0 g in 200 ml H2O). Extracted with Et2O (2×100 mL). The aqueous phase was acidified with 5 N aq. HCl, extracted with Et2O (2×100 mL), extracts were dried over Na2SO4 and evaporated. The residue was purified on SiO2 (200 g) column, hexane-EtOAc (0 to 20%). Yield 3.37 g (24.0 mmol, 49%), colorless oil.

reactant | NaOH | 50 mmol, 2.0 g | [OH-].[Na+]
reactant | 2-methylresorcinol | 50 mmol, 6.2 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | dimethylsulfate | 50 mmol, 4.8 mL | COS(=O)(=O)OC | C2H6O4S
reactant | NaOH | 200 ml, 8.0 g | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 3-Methoxy-2-methyl-phenol | COC=1C(=C(C=CC1)O)C | C8H10O2
